US05654435
(R)-3-(3-fluorophenyl)-5-(hydroxymethyl)-2-oxooxazolidine
A mixture of (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl butyrate (PREPARATION 12, 2.789 g, 9.91 mmol) in methanol (10 ml) is treated with a 25 wt. % mixture of sodium methoxide in methanol (57 μl, 0.99 mmol) at 20°-25°. After 45 min as measured by TLC (methanol/chloroform, 5/95) the starting material has been consumed. The reaction mixture is carefully quenched by the addition of hydrochloric acid (1N, 0.99 ml 0.99 mmol) and then concentrated under reduced pressure. Chromatography of the concentrate over silica gel, eluting first with hexane/ethyl acetate (1/1), and then ethyl acetate, pooling and concentrating the appropriate fractions gives the title compound, mp 106.5°-107.5°; [α]25D -66.8° (c 1.1, CH3CN); IR (mineral oil mull): 3520, 1724, 1612, 1590, 1496, 1428, 1420, 1232 and 1199 cm-1 ; NMR (CDCl3, 300 MHz) δ 7.44, 7.32, 7.23, 6.84, 4.77, 4.07-3.96, 3.76 and 2.44; MS (m/z) 211, 180, 136, 124, 95; HRMS (m/z) 211.0641 (calc'd for C10H10FNO3 : 211.0645).

reactant | (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl butyrate | 9.91 mmol, 2.789 g | C(CCC)(=O)OC[C@H]1CN(C(O1)=O)C1=CC(=CC=C1)F | C14H16FNO4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
reactant | hydrochloric acid | 0.99 mmol, 1N, 0.99 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 0.99 mmol, 57 μl | CO | CH4O
product | (R)-3-(3-fluorophenyl)-5-(hydroxymethyl)-2-oxooxazolidine | FC=1C=C(C=CC1)N1C(O[C@H](C1)CO)=O | C10H10FNO3
